US04652566
[Preparation of 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methylphenyl)piperazinyl]propoxy}benzofuran by the process 1]
The procedures of Example 10 were repeated except that 1.2 g (0.005 mole) of 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran and 1.2 g (0.0055 mole) of 1-(2-methylphenyl)piperazine hydrochloride were employed. The obtained concentrated residue was crystallized from ethyl acetate and petroleum ether.

reactant | 2-carbamoyl-7-(2,3-epoxypropoxy)benzofuran | 0.005 mole, 1.2 g | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC2CO2 | C12H11NO4
reactant | 1-(2-methylphenyl)piperazine hydrochloride | 0.0055 mole, 1.2 g | Cl.CC1=C(C=CC=C1)N1CCNCC1
product | 2-carbamoyl-7-{2-hydroxy-3-[4-(2-methylphenyl)piperazinyl]propoxy}benzofuran | C(N)(=O)C=1OC2=C(C1)C=CC=C2OCC(CN2CCN(CC2)C2=C(C=CC=C2)C)O | C23H27N3O4
